US06793984B2
6.1 g of 3,4,5-trifluoro-2-(2-methoxyvinyl)-4′-(4-propylcyclohexyl)biphenyl are dissolved in 180 ml of dichloromethane, and 8.5 ml of methanesulfonic acid are added at 0° C. After the reaction mixture has been stirred at 0° C. for 2.5 hours, it is added to ice-water and subjected to conventional work-up. Chromatographic purification (silica gel, n-heptane) and recrystallisation from n-heptane gives 1,2,3-trifluoro-7-(4-propylcyclohexyl)phenanthrene in the form of colourless crystals. C: 124, N: 124.4, I; Δε=12.7; Δn=0.1843;

reactant | 3,4,5-trifluoro-2-(2-methoxyvinyl)-4′-(4-propylcyclohexyl)biphenyl | 6.1 g | FC=1C(=C(C=C(C1F)F)C1=CC=C(C=C1)C1CCC(CC1)CCC)C=COC | C24H27F3O
reactant | methanesulfonic acid | 8.5 ml | CS(=O)(=O)O | CH4O3S
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | 1,2,3-trifluoro-7-(4-propylcyclohexyl)phenanthrene | FC1=C(C(=CC=2C3=CC=C(C=C3C=CC12)C1CCC(CC1)CCC)F)F | C23H23F3
